US08541418B2
(7R)-2-chloro-8-(1-cyclopropylethyl)-7-ethyl-5-methyl-7,8-dihydropteridin-6(5H)-one (Intermediate SS)
Intermediate SS is prepared from compound I-SS via compound II-SS, III-SS and IV-SS similarly to the methods used in preparing compound III-J, Intermediate J-1, compound IV-J and Intermediate J as described above, with (R)-methyl 2-aminobutanoate hydrochloride used instead of (R)-methyl 2-aminobutanoate and with cyclopropylethanone instead of dihydro-2H-pyran-4(3H)-one in the first step, and with PE/dichloromethane instead of PE/1,2-dichloroethane as solvent in the coupling of 2,4-dichloro-5-nitropyrimidine with compound II-SS. Compound III-SS; LCMS: 343.1 m/z (M+H)+. Compound IV-SS; LCMS: 281.1 m/z (M+H)+. Intermediate SS. LCMS: 295 m/z (M+H)+.

reactant | (R)-methyl 2-aminobutanoate hydrochloride | Cl.N[C@@H](C(=O)OC)CC
reactant | cyclopropylethanone | C1(CC1)C(C)=O | C5H8O
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | 2,4-dichloro-5-nitropyrimidine | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | (7R)-2-chloro-8-(1-cyclopropylethyl)-7-ethyl-5-methyl-7,8-dihydropteridin-6(5H)-one | ClC1=NC=2N([C@@H](C(N(C2C=N1)C)=O)CC)C(C)C1CC1 | C14H19ClN4O
